US04551279
Preparation of 3-amino-5-carboxymethylbenzoic acid
One equivalent of lithium hydroxide monohydrate was added to a solution of dimethyl-5-aminoisophthalate (prepared from 5-aminoisophthalic acid, thionyl chloride and methanol) in methanol (75 ml) and water (20 ml) and stirred at room temperature for 24 hours. The cloudy solution was heated for 2 hours on a hot plate and stripped of methanol on a rotary evaporator. The residue was triturated with hydrochloric acid and then extracted into methylene chloride (2×75 ml). The combined methylene chloride extracts were dried over sodium sulfate, filtered and stripped of solvent. The material was purified by crystallization from methanol-ethyl ether. m.p. 214°-220° C.

reactant | lithium hydroxide monohydrate | One equivalent | O.[OH-].[Li+]
reactant | dimethyl-5-aminoisophthalate | COC(C1=CC(C(=O)OC)=CC(=C1)N)=O | C10H11NO4
reactant | methanol | 75 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 3-amino-5-carboxymethylbenzoic acid | NC=1C=C(C(=O)O)C=C(C1)CC(=O)O | C9H9NO4
